US05942546
To a solution containing 4-toluenesulfonyl chloride (10 g, 52.45 mmol) in dichloromethane (100 mL) at -78° C., liquid ammonia (20 mL) was added. After the mixture was stirred at -78° C. for 4 h, precipitates were removed by filtration and the filtrate was concentrated in vacuo to remove the solvent. The residue was then recrystallized from n-hexane/ethyl acetate (v/v=2:5) to give 7.77 g (85.7%) of 4-toluenesulfonamide.

reactant | 4-toluenesulfonyl chloride | 52.45 mmol, 10 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ammonia | 20 mL | N | H3N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-toluenesulfonamide | 7.77 g, 85.7% | C1(=CC=C(C=C1)S(=O)(=O)N)C | C7H9NO2S
